US09382188B2
step 2) 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-carbaldehyde
To a solution of (2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)methanol (5.03 g) and triethylamine (5.7 mL) in DMSO (80 mL) was added sulfur trioxide pyridine complex (4.35 g), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.37 g) as a colorless oil.

reactant | (2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)methanol | 5.03 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)CO | C22H21FO4
reactant | triethylamine | 5.7 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
product | 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-carbaldehyde | 4.37 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C=O | C22H19FO4
